US09421205B2
(c) tert-Butyl(1-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidin-4-yl)carbamate (I76)
2,4-Dichloro-5-(trifluoromethyl)pyrimidine (0.551 g, 2.54 mmol) was stirred in a 1:1 t-BuOH:1,2-dichloroethane mixture (30 mL) at 0° C. A 1.0 M ZnCl2 solution in diethyl ether (2.903 mL, 2.903 mmol) was added cautiously over 10 minutes, after addition the reaction was left stirring at 0° C. for 30 minutes. A solution of tert-butyl(1-(4-aminophenyl)piperidin-4-yl)carbamate (I75) (0.705 g, 2.42 mmol) in 1:1 t-BuOH:1,2-dichloroethane (15 mL) was added drop-wise over 15 minutes at 0° C., a solution of NEt3 (0.405 mL, 2.903 mmol) in 1:1 t-BuOH:1,2-dichloroethane (15 mL) was added drop-wise over 15 minutes and the reaction was allowed to warm to room temperature and was stirred for 18 hours. The organic solvents were evaporated in vacuo and the crude oily solid was suspended in water (200 mL), the suspension was sonicated for 30 minutes and the product was separated by filtration, the solid was washed with water (10×20 mL) and dried under a high vacuum. The material was further purified by silica gel chromatography using a gradient of 0-50% ethyl acetate in petroleum benzine 40-60° C. to give the title compound (I76) (0.730 g, 64%) as a yellow solid; 1H NMR (400 MHz, d6-DMSO) δ 10.41 (s, 1H), 8.71 (s, 1H), 7.46 (d, J=7.7 Hz, 2H), 6.92 (d, J=8.9 Hz, 2H), 6.84 (d, J=7.1 Hz, 1H), 3.60 (d, J=12.4 Hz, 2H), 2.69 (t, J=10.9 Hz, 2H), 1.78 (d, J=10.9 Hz, 2H), 1.54-1.34 (m, 11H). LCMS Method C: rt 6.36 min; m/z 474.1 [M+H]+.

reactant | 2,4-Dichloro-5-(trifluoromethyl)pyrimidine | 2.54 mmol, 0.551 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | diethyl ether | 2.903 mmol, 2.903 mL | C(C)OCC | C4H10O
reactant | tert-butyl(1-(4-aminophenyl)piperidin-4-yl)carbamate | 2.42 mmol, 0.705 g | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC=C(C=C1)N)=O | C16H25N3O2
reactant | NEt3 | 2.903 mmol, 0.405 mL | CCN(CC)CC | C6H15N
catalyst | ZnCl2 | 1.0 M | [Cl-].[Cl-].[Zn+2]
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | CC(C)(C)O | C4H10O
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | tert-Butyl(1-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidin-4-yl)carbamate | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)Cl)C(F)(F)F)=O | C21H25ClF3N5O2
